US04458076
3-{1-[Phenethyl]-4-piperidinyl}-1,2-benzisothiazole hydrobromide
A stirred mixture of 5.0 g of 3-(4-piperidinyl)-1,2-benzisothiazole, 4.60 g of phenethyl bromide, 7.95 g of potassium carbonate, 0.25 g of potassium iodide and 90 ml of dimethylformamide was heated at 60° for 20 hrs and stirred for 21/2 days at ambient temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic extracts were dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to yield an oil. The oil was purified by elution column chromatography [silica gel (20:1); using 1% methanol in dichloromethane]. The eluate was evaporated and the residue was dissolved in ether and a saturated hydrogen bromide/ether solution was added dropwise to precipitate the salt. The salt was recrystallized from ether-ethanol 3.0 g (32%) of product, mp 233°-235°.

reactant | 3-(4-piperidinyl)-1,2-benzisothiazole | 5.0 g | N1CCC(CC1)C1=NSC2=C1C=CC=C2 | C12H14N2S
reactant | phenethyl bromide | 4.60 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | potassium carbonate | 7.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.25 g | [I-].[K+]
solvent | water | O | H2O
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 3-{1-[Phenethyl]-4-piperidinyl}-1,2-benzisothiazole hydrobromide | Br.C(CC1=CC=CC=C1)N1CCC(CC1)C1=NSC2=C1C=CC=C2 | InChI=1S/C20H22N2S.BrH/c1-2-6-16(7-3-1)10-13-22-14-11-17(12-15-22)20-18-8-4-5-9-19(18)23-21-20;/h1-9,17H,10-15H2;1H
